US06872833B2
(±)-2-Azetidin-1-yl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide
From (±)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and azetidine. ES-MS m/e (%): 427 (M+H+, 100).

reactant | (±)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C18H16BrN3O4S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | azetidine | N1CCC1 | C3H7N
product | (±)-2-Azetidin-1-yl-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | N1(CCC1)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C21H22N4O4S
